US04677216
A mixture of 8.7 g (46 mmols of crude product) of 2-(trichloro)silyl-1,3-butadiene and 10 ml of THF was cooled down to -10° C., into which was gently dropped a mixture of 8.3 ml (46×31.5 mmols) of CH3OH and 28.9 ml (46×3×1.5 mmols) of (C2H5)3N while agitating. Thereafter, the mixture was agitated at room temperature for further 30 minutes, followed by adding 30 ml of (C2H5)2O. The resulting (C2H5)3N.HCl was removed by filtration and the solvent was distilled off under reduced pressure, followed by vacuum distillation to obtain 6.1 g of 2-(trimethoxy)silyl-1,3-butadiene. Yield: 75%.

reactant | 2-(trichloro)silyl-1,3-butadiene | 46 mmols, 8.7 g | Cl[Si](C(=C)C=C)(Cl)Cl | C4H5Cl3Si
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | CH3OH | 31.5 mmols, 8.3 ml | CO | CH4O
reactant | (C2H5)2O | 30 ml | CCOCC | C4H10O
catalyst | (C2H5)3N | 1.5 mmols, 28.9 ml | N(CC)(CC)CC | C6H15N
product | 2-(trimethoxy)silyl-1,3-butadiene | 6.1 g, Yield: 75% | CO[Si](C(=C)C=C)(OC)OC | C7H14O3Si
